US08648066B2
4-chloro-5-methyl-6-(phenylmethyl)pyrimidine
Prepared from 4,6-dichloro-5-methylpyrimidine and benzyl zinc bromide (0.5 M solution in tetrahydrofuran) according to the procedure described in WO 2007/146824 as a colorless oil. 1H NMR (400 MHz, CDCl3): 8.78 (s, 1H), 7.33-7.18 (m, 5H), 4.19 (s, 2H), 2.36 (s, 3H); MS (EI) for C12H11ClN2: 219 (MH+).

reactant | 4,6-dichloro-5-methylpyrimidine | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | benzyl zinc bromide | 0.5 M | [Br-].C(C1=CC=CC=C1)[Zn+]
product | 4-chloro-5-methyl-6-(phenylmethyl)pyrimidine | ClC1=NC=NC(=C1C)CC1=CC=CC=C1 | C12H11ClN2
